Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Right temporal cavernous malformation
 
Major Surgical or Invasive Procedure:
___ - Right temporal craniotomy for resection of right 
temporal cavernous malformation

 
History of Present Illness:
___ is a ___ year old female with a history of 
seizures and a known right temporal cavernous malformation who 
presented electively on ___ for a right temporal craniotomy 
for resection of the right temporal cavernous malformation.

 
Past Medical History:
- attention deficit disorder
- history of seizures
- status post knee surgery
 
Social History:
___
Family History:
No family history of cavernous malformation.
 
Physical Exam:
On Discharge:
-------------
General:

Vital Signs: T 98.6F, HR 72, BP 101/63, RR 24, O2Sat 98% room 
air

Exam:

Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex
Pupils: Pupils equal, round, and reactive to light
Extraocular Movements: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Drift: [ ]Yes [x]No     
Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor:

        Trapezius   Deltoid   Biceps   Triceps   Grip
Right5           5         5        5         5
Left5           5         5        5         5

        IP   Quadriceps   Hamstring   AT   ___   Gastrocnemius
Right5    5            5           5    5     5
Left5    5            5           5    5     5

[x]Sensation intact to light touch

Surgical Incision: 
[x]Clean, dry, intact 
[x]Sutures
 
Pertinent Results:
Please see ___ Record for relevant laboratory and 
imaging results. 
 
Brief Hospital Course:
___ year old female with a right temporal cavernous malformation.

#Right Temporal Cavernous Malformation
Patient went to the operating room on ___ for a right 
temporal craniotomy for resection of the right temporal 
cavernous malformation. The procedure was uncomplicated. Please 
see separately dictated operative report by Dr. ___ 
further details. Patient was extubated in the operating room and 
recovered in the PACU. Patient was transferred to the step down 
unit postoperatively for close neurologic monitoring. Patient 
was advised to hold her home birth control medication for one 
week postoperatively as it interacts with an anesthesia reversal 
agent that she received. On ___, patient was neurologically 
intact. She was afebrile with stable vital signs, ambulating 
independently, tolerating a diet, voiding and stooling without 
difficulty, and her pain was well controlled with oral pain 
medications. She was discharged home with no needs in stable 
condition on ___. She will have her sutures removed ___ 
days postoperatively and will follow-up with Dr. ___ ___ 
weeks postoperatively.

#History of Seizures
Patient was continued on her home Keppra 500mg twice daily.

#Anemia
Patient's hemoglobin and hematocrit were low postoperatively. 
They were trended once daily throughout her hospitalization and 
remained stable.

#Dispostion
Patient was discharged home with no needs in stable condition on 
___. 
 
Medications on Admission:
- dextroamphetamine/amphetamine 10mg by mouth once daily
- drospirenone/ethinyl estradiol 3mg/0.03mg by mouth once daily
- levetiracetam 500mg by mouth twice daily
 
Discharge Medications:
- acetaminophen 325-650mg by mouth every 6 hours as needed for 
pain
- dextroamphetamine/amphetamine 10mg by mouth once daily
- docusate sodium 100mg by mouth twice daily as needed for 
constipation
- levetiracetam 500mg by mouth twice daily
- tramadol 50mg by mouth every 6 hours as needed for pain for 7 
days
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right temporal cavernous malformation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory, independent.
 
Discharge Instructions:
Call Your Neurosurgeon If You Experience:
- Any neurological issues, such as changes in vision, speech, or 
movement.
- Redness, swelling, or drainage from your surgical incision.
- Any problems with medications, such as lethargy, nausea, or 
vomiting.
- Fever greater than 101.5 degrees Fahrenheit.
- Headaches not relieved with prescribed medications.

Activity:
- Start to resume all activities as you tolerate, but start 
slowly and increase at your own pace.
- Do not operate any motorized vehicle after surgery, you can 
get more details about this at the time of your suture removal.

Medications: 
- Please do not take your birth control for one week after 
surgery. You may resume it on ___. Please follow-up with 
your primary care provider with any questions or concerns.

Surgical Incision Care:
- Keep your surgical incision clean and dry.
- Do not use shampoo until your sutures are removed. 
- When you are allowed to shampoo your hair, let the shampoo run 
off the surgical incision line. Gently pad the surgical incision 
with a towel to dry.
- Do not rub, scrub, scratch, or pick at any scabs on the 
surgical incision line.
- You will need your sutures removed ___ days after surgery.

Postoperative Experiences: Physical
- You may experience jaw pain on the same side as your surgery, 
this goes away after about a month.
- You may experience constipation. Constipation can be prevented 
by:
  - Drinking plenty of fluids.
  - Increasing fiber in your diet by eating prunes, vegetables, 
fiber rich breads or cereals, and fiber supplements.
  - Exercising.
  - Using over the counter laxatives or bowel stimulants as 
needed. Please stop taking if you experience loose stools or 
diarrhea.
- Fatigue, which will slowly resolve over time.
- Numbness or tingling in the area of the surgical incision. 
This can take weeks or months to fully resolve.
- Muffled hearing in the ear near the surgical incision.
- Low back pain or shooting pains down the legs, which should 
resolve with increased activity.

Postoperative Experiences: Emotional
- You may experience depression. Symptoms of depression can 
include:
  - Feeling “down” or sad.
  - Irritability, frustration, and confusion.
  - Distractibility.
  - Lower self esteem.
  - Relationship challenges.
  - Insomnia.
  - Loneliness.
- If you experience these symptoms, please contact your primary 
care provider, who can make a referral to a psychologist or 
psychiatrist.
 
Followup Instructions:
___